US03931205
A solution of 12 g of 7-cyanomethyl-5-oxo-5H-[1]benzopyrano[2,3-b]-pyridine in a mixture of 60 ml of acetic acid and 25 ml of concentrated hydrochloric acid is heated under reflux on an oil bath for 24 hours. After concentration, water is added to the residue, and further a 10% sodium hydroxide solution is added to dissolve the residue. An insoluble material is removed by extraction with chloroform. The aqueous layer is made acid with acetic acid, and the resulting crystalline precipitate is filtered off and recrystallized from aqueous dimethylformamide to give 8.6 g of 5-oxo-5H-[1]benzopyrano[2,3-b]pyridin-7-yl-acetic acid as white needles melting at 244°- 245°C.

reactant | 7-cyanomethyl-5-oxo-5H-[1]benzopyrano[2,3-b]-pyridine | 12 g | C(#N)CC=1C=CC2=C(C(C=3C(=NC=CC3)O2)=O)C1 | C14H8N2O2
reactant | acetic acid | 60 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 25 ml | Cl | ClH
product | 5-oxo-5H-[1]benzopyrano[2,3-b]pyridin-7-yl-acetic acid | 8.6 g | O=C1C2=C(OC3=NC=CC=C31)C=CC(=C2)CC(=O)O | C14H9NO4
